US08975254B2
(S)—N-{1-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-1-(3-oxobutyl)-1H-imidazole-4-carboxamide
(S)—N-{1-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-1H-imidazole-4-carboxamide (600 mg, 1.69 mmol) and methyl vinyl ketone (0.42 ml, 5.18 mmol) were added to a solution of 1-methylimidazole (7 μl, 0.085 mmol) in DMSO (6 ml). The reaction mixture was stirred at 70° C. for 11 h. Then water was added and the product was extracted into ethyl acetate. The combined organic layers were washed with water, dried and concentrated. The crude product was purified by flash chromatography on silica gel by using CH2Cl2-MeOH as a gradient eluent (100:0-98:2) to obtain the title compound. 1H NMR (400 MHz, CDCl3): 1.21 (3H, d), 2.16 (3H, s), 2.92 (2H, t), 4.26 (2H, t), 4.28 (1H, distorted dd), 4.39 (1H, distorted dd), 4.56 (1H, m), 6.60 (1H, d), 7.48 (1H, d), 7.50 (1H, d), 7.52 (1H, d), 7.66 (1H, distorted d), 7.79 (1H, distorted dd), 7.86 (1H, d), 8.17 (1H, d).

reactant | (S)—N-{1-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-1H-imidazole-4-carboxamide | 1.69 mmol, 600 mg | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=CNC1 | C17H15ClN6O
reactant | methyl vinyl ketone | 5.18 mmol, 0.42 ml | C(=C)C(=O)C | C4H6O
reactant | 1-methylimidazole | 0.085 mmol, 7 μl | CN1C=NC=C1 | C4H6N2
reactant | water | O | H2O
solvent | DMSO | 6 ml | CS(=O)C | C2H6OS
product | (S)—N-{1-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-1-(3-oxobutyl)-1H-imidazole-4-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=CN(C1)CCC(C)=O | C21H21ClN6O2
